US07846929B2
5-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)pyridine-3-carboxylic acid (40 mg) was reacted with (S)-(+)-1-amino-2-propanol via General Procedure B to yield 5-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-((S)-2-hydroxypropyl)pyridine-3-carboxamide. Crude 5-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-((S)-2-hydroxypropyl)pyridine-3-carboxamide (46 mg) was coupled to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole 7 via General Procedure A to yield 7.6 mg of 342. MS (Q1) 516.5. (M)+.

reactant | 5-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)pyridine-3-carboxylic acid | 40 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C=NC2)C(=O)O)N2CCOCC2 | C16H13ClN4O3S
reactant | (S)-(+)-1-amino-2-propanol | NC[C@H](C)O | C3H9NO
product | 5-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-((S)-2-hydroxypropyl)pyridine-3-carboxamide | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C=NC2)C(=O)NC[C@H](C)O)N2CCOCC2 | C19H20ClN5O3S
